US20010003782A1
4,4-Dimethyl-5α-chola-8,14-dien-3β,24-diol
A mixture of 3β,24-bis(tert-butyldimethylsilyloxy)-4,4-dimethylchola-5,7-diene (18.8 g) in 99.9% ethanol (375 ml), benzene (55 ml) and concentrated hydrochloric acid (55 ml) is heated to reflux for 4 hours. After standing overnight at room temperature, the reaction mixture is concentrated under reduced pressure. Crystallization of the remanens from ethanol/water gives 8.44 g of the title compound. Melting point: 203-208° C. 1H-NMR (CDCl3, 400 MHz): δ=5.36 (1H, s); 3.62 (2H, m); 3.23 (1H, m).

reactant | 3β,24-bis(tert-butyldimethylsilyloxy)-4,4-dimethylchola-5,7-diene | 18.8 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C(C2=CC=C3[C@@H]4CC[C@H]([C@@H](CCCO[Si](C)(C)C(C)(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C38H70O2Si2
solvent | ethanol | 375 ml | C(C)O | C2H6O
solvent | benzene | 55 ml | C1=CC=CC=C1 | C6H6
solvent | hydrochloric acid | 55 ml | Cl | ClH
product | 4,4-Dimethyl-5α-chola-8,14-dien-3β,24-diol | 8.44 g | CC1([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCO)C)[C@]4(CCC3[C@]2(CC[C@@H]1O)C)C)C | C26H42O2
